US08236806B2
1-(4-chlorophenyl)-4-(3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)piperazine (Compound 93)
100 mg (72%) of target compound was obtained by using a method same as in Example 1 by using 3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal (80 mg, 0.272 mmol), 1-(4-chlorophenyl)piperazine (73 mg, 0.272 mmol), DIPEA (0.071 mL, 0.408 mmol) and NaBH(OAc)3 (173 mg, 0.816 mmol).

reactant | 3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)-propanal | 0.272 mmol, 80 mg | FC1=CC=C(C=C1)C1=CC(=NN1C1=CC=CC=C1)CCC=O | C18H15FN2O
reactant | 1-(4-chlorophenyl)piperazine | 0.272 mmol, 73 mg | ClC1=CC=C(C=C1)N1CCNCC1 | C10H13ClN2
reactant | DIPEA | 0.408 mmol, 0.071 mL | CCN(C(C)C)C(C)C | C8H19N
reactant | NaBH(OAc)3 | 0.816 mmol, 173 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
product | 1-(4-chlorophenyl)-4-(3-(5-(4-fluorophenyl)-1-phenyl-1H-pyrazol-3-yl)propyl)piperazine | ClC1=CC=C(C=C1)N1CCN(CC1)CCCC1=NN(C(=C1)C1=CC=C(C=C1)F)C1=CC=CC=C1 | C28H28ClFN4
